US09388140B2
To a stirred solution of tert-butyl 4-amino-6-bromo-1H-benzimidazole-1-carboxylate (5.85 g, 18.74 mmol) in DCE (1000 mL) at rt was added 3,3,3-trifluoropropanal (6.30 g, 56.22 mmol, 3 eq), sodium triacetoxy borohydride (19.86 g, 93.70 mmol, 5 eq) and acetic acid (21.5 mL, 374.79 mmol, 20 eq) and the mixture was stirred for 2 h. Water and DCM was added, and the organic phase was separated and washed with water After addition of DCM (100 mL), the organic phase was washed with water and evaporated to yield 7.63 g tert-butyl 6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazole-1-carboxylate (81.79%).

reactant | tert-butyl 4-amino-6-bromo-1H-benzimidazole-1-carboxylate | 18.74 mmol, 5.85 g | NC1=CC(=CC=2N(C=NC21)C(=O)OC(C)(C)C)Br | C12H14BrN3O2
reactant | 3,3,3-trifluoropropanal | 56.22 mmol, 6.30 g, 3 eq | FC(CC=O)(F)F | C3H3F3O
reactant | sodium triacetoxy borohydride | 93.70 mmol, 19.86 g, 5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 374.79 mmol, 21.5 mL, 20 eq | C(C)(=O)O | C2H4O2
solvent | DCE | 1000 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | tert-butyl 6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazole-1-carboxylate | 7.63 g, 81.79% | BrC=1C=C(C2=C(N(C=N2)C(=O)OC(C)(C)C)C1)NCCC(F)(F)F | C15H17BrF3N3O2
